US07067529B2
To a stirred solution of [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-methanol (2.7 g, 7.08 mmol) in dichloromethane (14 mL) was added triethylamine (3.0 mL, 21.2 mmol) and methanesulphonyl chloride (1.24 mL, 15.6 mmol) dropwise at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes and lithium chloride (1.4 g, 33 mmol) was added at this temperature. The reaction mixture was stirred at room temperature for 15 hrs and diluted with dichloromethane (150 mL). The reaction mixture was washed with saturated aqueous sodium chloride solution (100 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 1-(3-sec-butoxy-benzyl)-4-chloromethyl-6,7-dimethoxy-isoquinoline (2.1 g, 74% yield) as a brown oil. The crude product was used without further purification.

reactant | [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-methanol | 7.08 mmol, 2.7 g | C(C)(CC)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CO)C=CC1 | C23H27NO4
reactant | triethylamine | 21.2 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 15.6 mmol, 1.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium chloride | 33 mmol, 1.4 g | [Cl-].[Li+]
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(3-sec-butoxy-benzyl)-4-chloromethyl-6,7-dimethoxy-isoquinoline | 2.1 g, 74% yield | C(C)(CC)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CCl)C=CC1 | C23H26ClNO3
